US08293768B2
Synthesis of ethyl 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with 4-fluorobenzyl bromide to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a colorless solid in 95% yield: 1H NMR (300 MHz, CDCl3) δ 7.31-7.25 (m, 2H), 7.04 (t, J=8.6 Hz, 2H), 6.15 (s, 1H), 4.44 (s, 2H), 4.28 (q, J=7.1 Hz, 2H), 3.84-3.76 (m, 2H), 3.48-3.40 (m, 2H), 2.49 (s, 3H), 1.34 (t, J=7.1 Hz, 3H); MS (ES+) m/z 363.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 95% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)OCC)C)=O)C=C1 | C18H19FN2O3S
